US08309546B2
4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]piperazine-1-carboaldehyde
5-[9-(Isobutyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine (129.8 mg, 0.30 mmol) was added to a tetrahydrofuran solution (7.0 ml) of 1H-benzotriazole-1-carboxyaldehyde (48.4 mg, 0.30 mmol) at room temperature and the resulting mixture was stirred for 75 minutes. Methylene chloride was added to the reaction mixture and the resulting mixture was poured into 2 N aqueous sodium hydroxide solution and extracted with methylene chloride-methanol (10:1). The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by medium pressure silica gel column chromatography (methylene chloride:methanol=49:1 to 32:1) to give the title compound (103.4 mg, 75%) as a pale yellow solid.

reactant | 5-[9-(Isobutyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.30 mmol, 129.8 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H30N10O
reactant | tetrahydrofuran | 7.0 ml | O1CCCC1 | C4H8O
reactant | 1H-benzotriazole-1-carboxyaldehyde | 0.30 mmol, 48.4 mg | CN(C)CCS(=O)(=O)O | C4H11NO3S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]piperazine-1-carboaldehyde | 103.4 mg, 75% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1CCN(CC1)C=O)N1CCOCC1 | C22H30N10O2
